US08580824B2
A solution of 2-ethyl-6-isobutyl-isonicotinic acid tert-butyl ester (391 mg, 1.49 mmol) in 6 N aq. HCl (15 mL) is stirred at 65° C. for 2 days before the solvent is evaporated. The residue is dried under HV to give 2-ethyl-6-isobutyl-isonicotinic acid hydrochloride (334 mg) as a colourless solid, LC-MS: tR=0.58 min, [M+1]+=208.04.

reactant | 2-ethyl-6-isobutyl-isonicotinic acid tert-butyl ester | 1.49 mmol, 391 mg | C(C)(C)(C)OC(C1=CC(=NC(=C1)CC(C)C)CC)=O | C16H25NO2
reactant | HCl | 6 N, 15 mL | Cl | ClH
product | 2-ethyl-6-isobutyl-isonicotinic acid hydrochloride | 334 mg | Cl.C(C)C=1C=C(C(=O)O)C=C(N1)CC(C)C | InChI=1S/C12H17NO2.ClH/c1-4-10-6-9(12(14)15)7-11(13-10)5-8(2)3;/h6-8H,4-5H2,1-3H3,(H,14,15);1H
